US07538121B2
Ethyl 6-(3,4-difluorophenyl)-2-methylnicotinate
The title compound was prepared from dimethylamino-(3,4-difluorophenyl)-propan-1-one and ethyl 3-aminocrotonate using the general procedure outlined in D18. 1H NMR (250 MHz, CDCl3) δ (ppm): 8.26 (d, 1H), 7.96 (ddd, 1H), 7.79 (m, 1H), 7.57 (d, 1H), 7.20-7.31 (m, 1H), 4.40 (q, 2H), 2.90 (s, 3H), 1.42 (t, 3H).

reactant | dimethylamino-(3,4-difluorophenyl)-propan-1-one | CN(C)C(C(=O)C1=CC(=C(C=C1)F)F)C | C11H13F2NO
reactant | ethyl 3-aminocrotonate | N\C(=C/C(=O)OCC)\C | C6H11NO2
product | Ethyl 6-(3,4-difluorophenyl)-2-methylnicotinate | FC=1C=C(C=CC1F)C1=NC(=C(C(=O)OCC)C=C1)C | C15H13F2NO2
